US05411966
1,1-Diethyl-3-(2,6,13-trimethyl-8alpha-ergolinyl)-urea
458 mg of 1,1-diethyl-3-[13-(1,3-dithiolan-2-yl)-2,6- dimethyl-8alpha-ergolinyl)-urea (1 mmol) is dissolved in 50 ml of methanol and treated with several portions of Raney nickel at room temperature until the initial material has disappeared according to thin-layer chromatography. It is filtered by kieselguhr, the solvent is concentrated by evaporation and the residue is chromatographed on silica gel with dichloromethane/methanol, the isolated substance is crystallized from methanol, yield 117 mg (31% of theory).

reactant | 1,1-diethyl-3-[13-(1,3-dithiolan-2-yl)-2,6- dimethyl-8alpha-ergolinyl)-urea | 1 mmol, 458 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C3SCCS3)C)C)CC | C24H34N4OS2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1,1-Diethyl-3-(2,6,13-trimethyl-8alpha-ergolinyl)-urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C)C)C)CC | C22H32N4O
